US04379032
Synthesis of (1S, 5R)-6-(1-methoxycarbonyl-2-methyl-1-propenyl)-3-benzyl-4-oxa-2,6-diazabicyclo-[3.2.0]hept-2-en-7-one
Magnesium chloride (36 mg) was dissolved in a mixture of 2.5 ml of methanol and 0.5 ml of tertbutyl alcohol. To the solution was added 53 mg of methyl ester of penicillin G to prepare an electrolyte. With platinum electrodes (1 cm2) dipped into the electrolyte, electrolysis was continued for 150 minutes (about 6 F) at a temperature of less than 0° C. and 3 to 8 V by applying constant current of 10 mA. Thereafter, the reaction mixture was stirred for about 30 minutes and extracted with chloroform. The extract was treated in the same manner as in Example 1, giving 41 mg of contemplated compound in 87% yield. The results of instrumental analyses were found identical with those of Example 1.

reactant | Magnesium chloride | 36 mg | [Cl-].[Mg+2].[Cl-]
reactant | penicillin G | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
reactant | methanol | 2.5 ml | CO | CH4O
solvent | tertbutyl alcohol | 0.5 ml | C(C)(C)(C)O | C4H10O
catalyst | platinum | [Pt] | Pt
product | (1S, 5R)-6-(1-methoxycarbonyl-2-methyl-1-propenyl)-3-benzyl-4-oxa-2,6-diazabicyclo-[3.2.0]hept-2-en-7-one | 41 mg, 87% yield | COC(=O)C(=C(C)C)N1[C@@H]2OC(=N[C@@H]2C1=O)CC1=CC=CC=C1 | C17H18N2O4
